US06884868B1
A solution of 4-(2-cyclohexenyloxy)-N-(benzyloxycarbonyl)piperidine (3.80 g), and 10% palladium on carbon (50% wet) (1.0 g) in methanol (40 ml) was hydrogenated under an atmospheric pressure of hydrogen at ambient temperature for 6 hours. The catalyst was filtered off, and the filtrate was evaporated in vacua and dried in vacuo to give 4-(cyclohexyloxy)piperidine (2.42 g).

reactant | 4-(2-cyclohexenyloxy)-N-(benzyloxycarbonyl)piperidine | 3.80 g | C1(C=CCCC1)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H25NO3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | methanol | 40 ml | CO | CH4O
product | 4-(cyclohexyloxy)piperidine | 2.42 g | C1(CCCCC1)OC1CCNCC1 | C11H21NO
